### PR TITLE
Golf a few proofs

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR simplifies and optimises a few proofs.

### CODE REVIEW

File: Carleson/TileExistence.lean [hunk 1]
```diff
@@ -76,18 +70,16 @@ lemma counting_balls (k : ℝ) (hk_lower : -S ≤ k) (Y : Set X) (hY : Y ⊆ bal
     have volume_pos : 0 < volume (ball o (4 * D^S)) := by
       apply measure_ball_pos volume o
       simp only [defaultD, gt_iff_lt, Nat.ofNat_pos, mul_pos_iff_of_pos_left]
-      refine zpow_pos_of_pos ?ha S
-      apply Real.rpow_pos_of_pos
+      refine zpow_pos_of_pos ?_ S
+      apply Real.rpow_pos_of_pos _ _
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:74]: regression?

Comment (pitmonticone) [reply Carleson/TileExistence.lean:74]: Yes. I'm going to fix it.

Comment (pitmonticone) [reply Carleson/TileExistence.lean]: Done.
